US04518596
8-(3,4-Methylenedioxybenzyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(3,4-methylenedioxybenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 200°-202° C.) and piperazine.

reactant | 2-chloro-8-(3,4-methylenedioxybenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCC2=CC1=C(C=C2)OCO1)N1CCOCC1 | C18H16ClN5O3S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(3,4-Methylenedioxybenzyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C1OC=2C=C(CSC3=NC=NC4=C3N=C(N=C4N4CCOCC4)N4CCNCC4)C=CC2O1 | C22H25N7O3S
